US05726312
b. Methyl 4-(3-hydroxypropynyl)benzoate
Methyl 4-iodobenzoate (9.0 g, 34.4 mmol) was dissolved in 90 ml of diethylamine. The solution was stirred vigorously and, sequentially, 121 milligrams of bis(triphenylphosphine) palladium chloride and 65 milligrams of cuprous iodide were added, each in a single portion, followed by 1.93 grams of propargyl alcohol. The resultant mixture was stirred for about 20 hours at room temperature in an argon atmosphere. At the end of this period, diethylamine was removed by concentration in vacuo. The residue was diluted with 200 ml of water and extracted three times with 100 ml of benzene and 75 ml of ethyl acetate. The organic extracts were combined, dried over Na2SO4, and concentrated in vacuo, yielding a brown solid. This crude residue was purified by flash chromatography. Elution with a 2 to 1 (V:V) mixture of hexane and ethyl acetate yielded 5.44 grams (83% yield) of a pale yellow solid melting at 81° to 82° C.

reactant | Methyl 4-iodobenzoate | 34.4 mmol, 9.0 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | propargyl alcohol | 1.93 grams | C(C#C)O | C3H4O
solvent | diethylamine | 90 ml | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine) palladium chloride | 121 milligrams | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 4-(3-hydroxypropynyl)benzoate | 5.44 grams, 83% yield | OCC#CC1=CC=C(C(=O)OC)C=C1 | C11H10O3
